US06730754B2
(c) Synthesis of Chlorodimethyl(N-methyl-2-methyl-5,6-dihydroindeno[2,1-b]indol-6-yl)silane
9.5 mL of a 2.5 M solution of n-BuLi in hexane (23.75 mmol) were added dropwise to a solution of 5.1 g of N-methyl-2-methyl-5,6-dihydroindeno[2,1-b]indole, obtained as reported above, (purity 98.2%, Mw=233.32, 21.46 mmol; indenoindole: n-BuLi=1:1.1) in 70 mL of THF, previously cooled to −78° C. At the end of the addition, the brown solution was allowed to warm up to room temperature and stirred for 6 hours. Then it was cooled again to −78° C. and added dropwise to a solution of dichlorodimethylsilane (Mw=129.06, d=1.064, 2.6 mL, 21.43 mmol; indenoindole: Me2SiCl2=1:1) in 20 mL of THF, previously cooled to −78° C. At the end of the addition, the reaction mixture was allowed to warm up to room temperature and stirred overnight. The solvents were evaporated under reduced pressure to give a brown sticky solid, which at the 1H-NMR analysis resulted to be the target product, with few by-products. The product was used in the subsequent step without further purification.

reactant | n-BuLi | [Li]CCCC
reactant | hexane | 23.75 mmol | CCCCCC | C6H14
reactant | N-methyl-2-methyl-5,6-dihydroindeno[2,1-b]indole | 5.1 g | CN1C2=C(C3=CC(=CC=C13)C)C1=CC=CC=C1C2 | C17H15N
reactant | indenoindole | N1=CC=C2C=CC=3C(=C12)C=C1C=CC=CC13 | C15H9N
reactant | dichlorodimethylsilane | 21.43 mmol, 2.6 mL | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Chlorodimethyl(N-methyl-2-methyl-5,6-dihydroindeno[2,1-b]indol-6-yl)silane | Cl[Si](C1C2=CC=CC=C2C2=C1N(C1=CC=C(C=C21)C)C)(C)C | C19H20ClNSi
